US04746657
3-(Ethoxycarbonyl)-2-pyridineacetic acid ethyl ester
To a mixture of 54 g (0.26 mole) of 3-carboxy-2-pyridineacetic acid ethyl ester* and 24.4 g (0.29 mole) of sodium bicarbonate in 300 ml of dimethylformamide was added 60.8 g (0.39 mole) of ethyliodide. The mixture was stirred at 50° C. for 24 hr; cooled to 25° C. and treated with 300 ml of water. The aqueous solution was extracted 3 times with isopropyl ether. The isopropyl ether solution was extracted with dilute hydrochloric acid. The acid layer was made basic with sodium hydroxide and extracted with isopropyl ether. The ether layer was dried over anhydrous sodium sulfate, concentrated and the residue was distilled to give 47 g (76%), b.p. 128°-130° C./0.5 mm.

reactant | 3-carboxy-2-pyridineacetic acid ethyl ester | 0.26 mole, 54 g | C(C)OC(CC1=NC=CC=C1C(=O)O)=O | C10H11NO4
reactant | sodium bicarbonate | 0.29 mole, 24.4 g | C([O-])(O)=O.[Na+]
reactant | ethyliodide | 0.39 mole, 60.8 g | C(C)I | C2H5I
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 3-(Ethoxycarbonyl)-2-pyridineacetic acid ethyl ester | C(C)OC(CC1=NC=CC=C1C(=O)OCC)=O | C12H15NO4
